US05905140
A solution of eicosanedioic acid (3.43 g, 10.0 mmol), dicyclohexylcarbodimide (2.06 g, 10.0 mmol), benzotriazole (1.19 g, 10.0 mmol) and dimethylamino-pyridine hydrochloride in anhydrous tetrahydrofuran (200 ml) was stirred for two days at room temperature. The resulting suspension was filtered, and the filtrate evaporated to dryness under reduced pressure. The residue was suspended in dichloromethane (100 ml), and undissolved material was isolated by filtration. The dried filter cake (2.0 g) was recrystallised from acetone (200 ml) yielding 0.70 g (16%) of white crystalline 1-(19-carboxynonadecanoyl)benzotriazole, melting at 111.9° C. (DSC peak value).

reactant | eicosanedioic acid | 10.0 mmol, 3.43 g | C(CCCCCCCCCCCCCCCCCCC(=O)O)(=O)O | C20H38O4
reactant | dicyclohexylcarbodimide | 10.0 mmol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzotriazole | 10.0 mmol, 1.19 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | dimethylamino-pyridine hydrochloride | Cl.CN(C)C1=NC=CC=C1
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(19-carboxynonadecanoyl)benzotriazole | 0.70 g, 16% | C(=O)(O)CCCCCCCCCCCCCCCCCCC(=O)N1N=NC2=C1C=CC=C2 | C26H41N3O3
